US06025382
Preparation of 4-[(1-Ethylpyrrolidin-3-yl)oxy]phenyl 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone.
Sodium hydride (60% oil dispersion, 38 mg) was suspended in DMF (1 mL) and stirred at ambient temperature for 15 min under argon before 1-ethyl-3-pyrrolidinol (92 μL) was added. After stirring for 15 min, 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone (223 mg) in 1 mL of DMF was introduced and the resulting solution was stirred at ambient temperature for 4 h. The reaction mixture was diluted with brine (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the product as a colorless oil (171 mg, 63%).

reactant | Sodium hydride | 38 mg | [H-].[Na+]
reactant | 1-ethyl-3-pyrrolidinol | 92 μL | C(C)N1CC(CC1)O | C6H13NO
reactant | 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl ketone | 223 mg | N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)F | C27H24FNO2S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 4-[(1-Ethylpyrrolidin-3-yl)oxy]phenyl 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone | 171 mg, 63% | N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OC2CN(CC2)CC | C33H36N2O3S
